US05541229
4'-[(2-Cyclohexylmethyl-5,6-dihydroxy-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid
0.29 ml (3 mmol) of boron tribromide is added dropwise to a suspension of 242 mg (0.5 mmol) of 4'-[(2-cyclohexylmethyl-5,6-dimethoxy-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid in 25 ml of dichloromethane at -5° C. When the addition is complete, the cooling bath is removed and the mixture is stirred at ambient temperature for 5 hours. 20 ml of methanol are then added while the mixture is cooled with ice, then the reaction mixture is evaporated to dryness and the residue is suspended in 10 ml of water while stirring. The crude product precipitated is filtered off under suction, washed with a further 10 ml of water, dried and chromatographed over a silica gel column (eluting agent: dichloromethane/ethanol=9:1).

reactant | boron tribromide | 3 mmol, 0.29 ml | B(Br)(Br)Br | BBr3
reactant | 4'-[(2-cyclohexylmethyl-5,6-dimethoxy-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid | 0.5 mmol, 242 mg | C1(CCCCC1)CC1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=C(C(=C2)OC)OC | C30H32N2O4
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 4'-[(2-Cyclohexylmethyl-5,6-dihydroxy-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid | C1(CCCCC1)CC1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=C(C(=C2)O)O | C28H28N2O4
